US07396844B1
Synthesis of 3-(3-nitrobenzyloxy)benzonitrile
1.70 g (10.0 mmol) of 3-nitrobenzyl chloride, 1.48 g (12.4 mmol) of 3-cyanophenol and 3.58 g (25.9 mmol) of potassium carbonate were suspended in 80 ml of dimethylformamide, and the resultant suspension was stirred at 95° C. overnight. After leaving the suspension to cool, 150 ml of water was added to the suspension, and the solid formed was taken by the filtration. The solid was washed with 100 ml of water and then 20 ml of ethyl acetate, and dried under reduced pressure to obtain the title compound.

reactant | 3-nitrobenzyl chloride | 10.0 mmol, 1.70 g | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | 3-cyanophenol | 12.4 mmol, 1.48 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | potassium carbonate | 25.9 mmol, 3.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 3-(3-nitrobenzyloxy)benzonitrile | [N+](=O)([O-])C=1C=C(COC=2C=C(C#N)C=CC2)C=CC1 | C14H10N2O3
